US06242470B1
a) 1-(N,N-Dimethylamino)ethyl-5-nitro-1H-indole
Prepared according to the method of Example 15a) from 5-nitroindole (0.217 g) and dimethylaminoethyl chloride hydrochloride (0.21 g) to leave sub-title compound as an orange/brown solid (0.24 g).

reactant | 5-nitroindole | 0.217 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | dimethylaminoethyl chloride hydrochloride | 0.21 g | Cl.CN(C)CCCl
product | 1-(N,N-Dimethylamino)ethyl-5-nitro-1H-indole | 0.24 g | CN(C)C(C)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C12H15N3O2
